US09315491B2
5-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-1H-benzoimidazol-2-ylamine
A mixture of 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-benzene-1,2-diamine (0.58 g, 1.0 eq.) and ACN/H2O (5 ml/1 ml). In ice bath, cyanogen bromide (0.3 g, 1.5 eq) was added to mixture solution dropwisely. The solution was stirred overnight at room temperature, quenched with a NaHCO3(sat.) solution, and then filtered to give a light brown solid (0.32 g, 51.78%), which was dried in vacuo to give a product.

reactant | 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-benzene-1,2-diamine | 0.58 g, 1.0 eq. | COC=1C(=NC(=NC1)C=1C=C(C(=CC1)N)N)N1CCOCC1 | C15H19N5O2
reactant | cyanogen bromide | 0.3 g, 1.5 eq | N#CBr | CBrN
solvent | ACN H2O | 5 ml | C(C)#N.O
product | 5-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-1H-benzoimidazol-2-ylamine | 0.32 g, 51.78% | COC=1C(=NC(=NC1)C1=CC2=C(NC(=N2)N)C=C1)N1CCOCC1 | C16H18N6O2
